US04628057
(1RS,3SR)-trans-1-Methyl-2-[(methylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
(1RS,3SR)-trans-1-Methyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (1.15 g) is dissolved in methanol (30 ml)--water (3 ml) and thereto are added triethylamine (1.9 g) and carbon disulfide (912 mg). The mixture is stirred at room temperature for 20 minutes, and to the mixture is added methyl iodide (1.7 g) and the mixture is stirred at room temperature for 2 hours and then distilled under reduced pressure to remove the solvent. To the residue is added water, and the aqueous solution is acidified with 10% HCl and extracted with ethyl acetate. The extract is washed with water, dried and distilled to remove the solvent. The residue is recrystallized from aqueous ethanol to give the title compound (1.13 g, 70.6%) as colorless needles, m.p. 173°-176° C.

reactant | (1RS,3SR)-trans-1-Methyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 1.15 g | C[C@@H]1N[C@H](CC=2C3=CC=CC=C3NC12)C(=O)O | C13H14N2O2
reactant | water | 3 ml | O | H2O
reactant | triethylamine | 1.9 g | C(C)N(CC)CC | C6H15N
reactant | methyl iodide | 1.7 g | CI | CH3I
reactant | carbon disulfide | 912 mg | C(=S)=S | CS2
solvent | methanol | 30 ml | CO | CH4O
product | (1RS,3SR)-trans-1-Methyl-2-[(methylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 1.13 g, 70.6% | C[C@@H]1N([C@H](CC=2C3=CC=CC=C3NC12)C(=O)O)C(=S)SC | C15H16N2O2S2
